US06528525B1
(c) Ethyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-(4-chlorophenoxy)propionate
In a similar manner to that described in Example 122, a reaction was carried out using ethyl 2-(4-chlorophenoxy)-3-(4-hydroxyphenyl)propionate (1.01 g), which is the product of Reference example 38(b), t-butyl 2-hydroxyethylcarbamate (1.27 g), triphenylphosphine (2.06 g) and diethylazodicarboxylate (1.37 g) and the reaction mixture was treated to afford the title compound (1.14 g) as a colorless oil.

reactant | ethyl 2-(4-chlorophenoxy)-3-(4-hydroxyphenyl)propionate | 1.01 g | ClC1=CC=C(OC(C(=O)OCC)CC2=CC=C(C=C2)O)C=C1 | C17H17ClO4
reactant | t-butyl 2-hydroxyethylcarbamate | 1.27 g | OCCNC(OC(C)(C)C)=O | C7H15NO3
reactant | triphenylphosphine | 2.06 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 1.37 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
product | Ethyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-(4-chlorophenoxy)propionate | 1.14 g | C(C)(C)(C)OC(=O)NCCOC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)Cl | C24H30ClNO6
